US08497368B2
To a solution of 1-(3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone (35 mg, 0.104 mmol) in MeOH (4 mL), was added hydrazinecarboxamide hydrochloride (28.9 mg, 0.259 mmol). The reaction mixture was heated to 35° C. After stirring for 5 h, the solvent was removed and DCM was added to dilute the residue. The resulting mixture was then washed with brine, dried over Na2SO4, and concentrated in vacuo to give (E)-2-(1-(3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide (14 mg, 33%) as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.64 (s, 1H), 8.14 (d, 1H), 7.93 (m, 2H), 7.74 (s, 1H), 7.51 (m, 2H), 4.93 (m, 1H), 3.96 (s, 3H), 2.13 (s, 3H), 1.76 (d, 3H). LCMS (method B): [MH]+=395, tR=2.32 min.

reactant | 1-(3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone | 0.104 mmol, 35 mg | FC1=C(C=C2C=NN(C2=C1)C)C(C)C1=CN=C2N1N=C(C=C2)C(C)=O | C18H16FN5O
reactant | hydrazinecarboxamide hydrochloride | 0.259 mmol, 28.9 mg | Cl.N(N)C(=O)N
solvent | MeOH | 4 mL | CO | CH4O
product | (E)-2-(1-(3-(1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide | 14 mg, 33% | FC1=C(C=C2C=NN(C2=C1)C)C(C)C1=CN=C2N1N=C(C=C2)\C(\C)=N\NC(=O)N | C19H19FN8O
